US04797391
A solution of methyl [(6,7-dichloro-2-ethyl-2,3-dihydro-3-methyl-1-oxo-2-(3-oxobutyl)-1H-inden-5-yl)oxy]acetate (0.40 g) in acetic acid (6 ml) and 6N hydrochloric acid (6 ml) was heated at reflux for 90 hours, poured into ice water, extracted into ether, washed with water, brine, dried over MgSO4 and evaporated in vacuo. Crystallization from butyl chloride gave [(5,6-dichloro-9a-ethyl-9-methyl-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetic acid which melted at 212°-214° C.

reactant | methyl [(6,7-dichloro-2-ethyl-2,3-dihydro-3-methyl-1-oxo-2-(3-oxobutyl)-1H-inden-5-yl)oxy]acetate | 0.40 g | ClC1=C(C=C2C(C(C(C2=C1Cl)=O)(CCC(C)=O)CC)C)OCC(=O)OC | C19H22Cl2O5
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 6N, 6 ml | Cl | ClH
product | [(5,6-dichloro-9a-ethyl-9-methyl-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetic acid | ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)OCC(=O)O)C)CC)=O | C18H18Cl2O4
